US05521170
A mixture of N-(2-ethoxycarbonylethyl)-4-methyl-2-nitroaniline (11.25 g) and iron powder (12.45 g) in a mixture of methanol (70 ml) and acetic acid (7 ml) was refluxed for 1 hour and the solution was cooled to ambient temperature. The mixture was filtered through celite and the filtrate was evaporated in vacuo. The residue was dissolved with chloroform (50 ml) and the solution was basified with saturated sodium bicarbonate aqueous solution. The solution was filtered through celite and the organic layer was washed with brine. The solution was dried over magnesium sulfate and the solvent was removed. A mixture of the residue (8.00 g) in a mixture of concentrated hydrochloric acid (16 ml) and water (12 ml) was refluxed for 1 hour and the solution was cooled to ambient temperature. The mixture was basified with concentrated ammonium hydroxide and then the resulting solution was extracted with chloroform. Drying over magnesium sulfate, filtering and the removal of solvents afforded a crude product. The crude product was triturated with diethyl ether - isopropyl ether (1:1) to give 8-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (1.26 g) as a brown powder.

reactant | N-(2-ethoxycarbonylethyl)-4-methyl-2-nitroaniline | 11.25 g | C(C)OC(=O)CCNC1=C(C=C(C=C1)C)[N+](=O)[O-] | C12H16N2O4
solvent | methanol | 70 ml | CO | CH4O
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 12.45 g | [Fe] | Fe
product | 8-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 1.26 g | CC=1C=CC2=C(NC(CCN2)=O)C1 | C10H12N2O
